US08957080B2
To a solution of 3-((S)-2-((4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidin-1-yl)-3-oxopropanenitrile (236 mg, 0.5 mmol, 1 equiv) and tert-butyl methyl(2-methyl-1-oxopropan-2-yl)carbamate (2.01 g, 10 mmol, 20 equiv) in dioxane (30 mL) was added 0.5 mL piperidine, 1 drop AcOH and 2 g of 4 A molecular sieves. The resulting mixture was stirred for 6 h at 110° C. The solids was filtered out, the filtrate was diluted with 50 mL of EA, washed with brine, dried over Na2SO4, concentrated. The residue was purified on silica gel column (EA to EA/MeOH 10/1) to give 60 mg of tert-butyl 5-((S)-2-((4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidin-1-yl)-4-cyano-2-methyl-5-oxopent-3-en-2-yl(methyl)carbamate as white solid.

reactant | 3-((S)-2-((4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidin-1-yl)-3-oxopropanenitrile | 0.5 mmol, 236 mg, 1 equiv | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@H]2N(CCC2)C(CC#N)=O | C25H22FN7O2
reactant | tert-butyl methyl(2-methyl-1-oxopropan-2-yl)carbamate | 10 mmol, 2.01 g, 20 equiv | CN(C(OC(C)(C)C)=O)C(C=O)(C)C | C10H19NO3
reactant | piperidine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | AcOH | 1 drop | CC(=O)O | C2H4O2
product | tert-butyl 5-((S)-2-((4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidin-1-yl)-4-cyano-2-methyl-5-oxopent-3-en-2-yl(methyl)carbamate | 60 mg | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@H]2N(CCC2)C(C(=CC(C)(C)N(C(OC(C)(C)C)=O)C)C#N)=O | C35H39FN8O4
